US07576215B2
N-{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}BENZENESULFONAMIDE
The title compound was prepared from [4-(3-aminophenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and benzenesulfonyl chloride following the procedure of Example 61 as an off-white solid: MS (EI) m/z 533.2 (M+H)+; 1H NMR (DMSO-d6): δ 6.95 (d, J=7.7 Hz, 1H), 7.03 (d, J=8.1 Hz, 1H), 7.05 (s, 1H), 7.20 (t, J=7.9 Hz, 1H), 7.35 (t, J=7.5 Hz, 2H), 7.50-7.70 (m, 9H), 7.76 (t, J=8.2 Hz, 1H), 8.33 (d, J=7.1 Hz, 1H), 9.11 (s, 1H), 10.38 (s, 1H).

reactant | [4-(3-aminophenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}BENZENESULFONAMIDE | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NS(=O)(=O)C1=CC=CC=C1)C(F)(F)F | C29H19F3N2O3S
